US07105507B2
(RS)-Methyl α-(Methoxymethyl)-3,5-bis(trifluoromethyl)benzeneacetate
(Diazomethyl)trimethylsilane (1.6 mL, 3.2 mmol) was added dropwise to a stirred, cooled (0° C.) mixture of (RS)-methyl α-(hydroxymethyl)-3,5-bis(trifluoromethyl)benzeneacetate (Description 7, 1.0 g, 3.2 mmol) and aqueous fluoroboric acid (48%, 585 mg, 3.2 mmol) in dichloromethane (10 mL) and the mixture was stirred at room temperature for 20 minutes. Further (diazomethyl)trimethylsilane (0.8 mL, 1.6 mmol) was added and the mixture was stirred at room temperature for 20 minutes. Further (diazomethyl)trimethylsilane (0.4 mL, 0.8 mmol)) was added and the mixture was stirred at room temperature for 20 minutes. Further (diazomethyl)trimethylsilane (0.4 mL, 0.8 mmol)) was added and the mixture was stirred at room temperature for 30 minutes, poured into water (40 mL) and extracted with dichloromethane (2×40 mL). The combined organic fractions were dried (MgSO4), the solvent was evaporated under reduced pressure and the residue was purified by flash column chromatography on silica gel, eluting with isohexane/EtOAc (90:10), to give the title compound as a colorless oil (834 mg, 80%). 1H NMR (400 MHz, CDCl3) δ 3.36 (3H, s), 3.69–3.73 (1H, m), 3.74 (3H, s), 3.92–3.96 (1H, m), 3.99–4.03 (1H, m), and 7.80–7.81 (3H, m).

reactant | (Diazomethyl)trimethylsilane | 3.2 mmol, 1.6 mL | [N+](=[N-])=C[Si](C)(C)C | C4H10N2Si
reactant | (RS)-methyl α-(hydroxymethyl)-3,5-bis(trifluoromethyl)benzeneacetate | 3.2 mmol, 1.0 g | OCC(C(=O)OC)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C12H10F6O3
reactant | fluoroboric acid | 3.2 mmol, 585 mg | F[B-](F)(F)F.[H+]
reactant | (diazomethyl)trimethylsilane | 1.6 mmol, 0.8 mL | [N+](=[N-])=C[Si](C)(C)C | C4H10N2Si
reactant | (diazomethyl)trimethylsilane | 0.8 mmol, 0.4 mL | [N+](=[N-])=C[Si](C)(C)C | C4H10N2Si
reactant | (diazomethyl)trimethylsilane | 0.8 mmol, 0.4 mL | [N+](=[N-])=C[Si](C)(C)C | C4H10N2Si
reactant | water | 40 mL | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (RS)-Methyl α-(Methoxymethyl)-3,5-bis(trifluoromethyl)benzeneacetate | 834 mg, 80% | COCC(C(=O)OC)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C13H12F6O3
